### PR TITLE
[Merged by Bors] - feat: Order of elements of a subgroup

### PR DESCRIPTION
**Pull request by YaelDillies**
The cardinality of a subgroup is greater than the order of any of its elements.

Rename
* `order_eq_card_zpowers` → `Fintype.card_zpowers`
* `order_eq_card_zpowers'` → `Nat.card_zpowers` (and turn it around to match `Nat.card_subgroupPowers`)
* `Submonoid.powers_subset` → `Submonoid.powers_le`
* `orderOf_dvd_card_univ` → `orderOf_dvd_card`
* `orderOf_subgroup` → `Subgroup.orderOf`
* `Subgroup.nonempty` → `Subgroup.coe_nonempty`

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Data/ZMod/Quotient.lean [hunk 1]
```diff
@@ -203,21 +200,32 @@ open Subgroup
...
+/-- See also `Fintype.card_zpowers`. -/
+@[to_additive Nat.card_zmultiples "See also `Fintype.card_zmultiples`."]
+theorem Nat.card_zpowers : Nat.card (zpowers a) = orderOf a := by
   have := Nat.card_congr (MulAction.orbitZpowersEquiv a (1 : α))
-  rwa [Nat.card_zmod, orbit_subgroup_one_eq_self, eq_comm] at this
-#align order_eq_card_zpowers' order_eq_card_zpowers'
-#align add_order_eq_card_zmultiples' add_order_eq_card_zmultiples'
+  rwa [Nat.card_zmod, orbit_subgroup_one_eq_self] at this
+#align order_eq_card_zpowers' Nat.card_zpowers
+#align add_order_eq_card_zmultiples' Nat.card_zmultiples
```
Comment (eric-wieser) [inline Mathlib/Data/ZMod/Quotient.lean:209]: I'd advocate a subscript x here, though that's apparently controversial.

File: Mathlib/Data/ZMod/Quotient.lean [hunk 2]
```diff
@@ -203,21 +200,32 @@ open Subgroup
...
 
 variable {a}
 
+@[to_additive (attr := simp) finite_zmultiples]
+lemma finite_zpowers : (zpowers a : Set α).Finite ↔ IsOfFinOrder a := by
```
Comment (eric-wieser) [inline Mathlib/Data/ZMod/Quotient.lean:214]:
```suggestion
lemma finite_zpowers_iff : (zpowers a : Set α).Finite ↔ IsOfFinOrder a := by
```
perhaps (and throughout)

File: Mathlib/Data/ZMod/Quotient.lean [hunk 3]
```diff
@@ -203,21 +200,32 @@ open Subgroup
...
+
 @[to_additive IsOfFinAddOrder.finite_zmultiples]
-theorem IsOfFinOrder.finite_zpowers (h : IsOfFinOrder a) : Finite <| zpowers a := by
-  rw [← orderOf_pos_iff, order_eq_card_zpowers'] at h
-  exact Nat.finite_of_card_ne_zero h.ne.symm
+protected alias ⟨_, IsOfFinOrder.finite_zpowers⟩ := finite_zpowers
 #align is_of_fin_order.finite_zpowers IsOfFinOrder.finite_zpowers
 #align is_of_fin_add_order.finite_zmultiples IsOfFinAddOrder.finite_zmultiples
 
+/-- The cardinality of a subgroup is greater than the order of any of its elements. -/
```
Comment (eric-wieser) [inline Mathlib/Data/ZMod/Quotient.lean:226]:
```suggestion
/-- The cardinality of a subgroup is greater than or equal to the order of any of its elements. -/
```

File: Mathlib/GroupTheory/Subgroup/Basic.lean [hunk 4]
```diff
@@ -478,6 +478,9 @@ theorem toSubmonoid_le {p q : Subgroup G} : p.toSubmonoid ≤ q.toSubmonoid ↔
 #align subgroup.to_submonoid_le Subgroup.toSubmonoid_le
 #align add_subgroup.to_add_submonoid_le AddSubgroup.toAddSubmonoid_le
 
+@[to_additive (attr := simp)]
+lemma nonempty (s : Subgroup G) : (s : Set G).Nonempty := ⟨1, one_mem _⟩
```
Comment (eric-wieser) [inline Mathlib/GroupTheory/Subgroup/Basic.lean:482]:
```suggestion
lemma nonempty_coe (s : Subgroup G) : (s : Set G).Nonempty := ⟨1, one_mem _⟩
```

**Review by eric-wieser — APPROVED** [review]
Can you be a tiny bit more explicit in the PR description about which lemmas you turned around?

bors d+

Thanks!

File: Mathlib/Data/ZMod/Quotient.lean (hunk 2 above)
Comment (YaelDillies) [reply Mathlib/Data/ZMod/Quotient.lean:214]: This wouldn't match `finite_powers` and I dislike appending non-disambiguating `_iff`.

File: Mathlib/Data/ZMod/Quotient.lean [hunk 5]
```diff
@@ -203,21 +200,32 @@ open Subgroup
...
+@[to_additive "The cardinality of a subgroup is greater than the order of any of its elements."]
+lemma Subgroup.orderOf_le_card (s : Subgroup α) (hs : (s : Set α).Finite) (ha : a ∈ s) :
+    orderOf a ≤ Nat.card s := by rw [← Nat.card_zpowers]; exact Nat.card_mono hs $ zpowers_le.2 ha
```
Comment (alreadydone) [inline Mathlib/Data/ZMod/Quotient.lean:229]: There's Cauchy's theorem [orderOf_dvd_nat_card](https://leanprover-community.github.io/mathlib4_docs/Mathlib/GroupTheory/OrderOfElement.html#orderOf_dvd_nat_card) which doesn't require the `Finite` hypothesis, and of course if `Nat.card s` is nonzero then dividing it implies being smaller than or equal to it.

Comment (YaelDillies) [reply Mathlib/Data/ZMod/Quotient.lean:229]: Are you saying you don't want my lemma to exist? I don't really mind either way, but I do feel like this is a sensible statement to look for.

Comment (YaelDillies) [reply Mathlib/Data/ZMod/Quotient.lean]: @alreadydone, can you check whether you're happy wiith my new statement before I hit merge?

Comment (alreadydone) [reply Mathlib/Data/ZMod/Quotient.lean]: Sorry, it's (a special case of) Lagrange's theorem ... I think the LE version is fine if you find it more convenient, and just wanted to point out it follows from the Dvd version (does it requires more imports though? Your last commit has a large diff and build error) and that you should add the Group version too.

Comment (YaelDillies) [reply Mathlib/Data/ZMod/Quotient.lean]: What group version do you have in mind? I assume you meant submonoid version, rather?

Comment (alreadydone) [reply Mathlib/Data/ZMod/Quotient.lean]: I mean the version of [orderOf_dvd_nat_card](https://leanprover-community.github.io/mathlib4_docs/Mathlib/GroupTheory/OrderOfElement.html#orderOf_dvd_nat_card) with dvd replaced by le (assuming `[Finite G]`). The submonoid version also seems to be a good idea, since Lagrange's theorem doesn't hold there so there's no dvd version ...

Comment (YaelDillies) [reply Mathlib/Data/ZMod/Quotient.lean]: Okay, I've restored my lemma and added the submonoid version.

**Comment by YaelDillies** [comment]
bors merge
